US07309703B2
4-(2-Chloro-6-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (1.87 g, 5.47 mmol) was dissolved in trifluoroacetic acid (5.0 mL) and CH2Cl2 (5.0 mL) and allowed to stir for 2 h. The reaction mixture was concentrated, diluted with EtOAc, and washed with saturated aq. NaHCO3. The organic layer was dried over Na2SO4, concentrated and purified by column chromatography (silica, 100% CH2Cl2) to afford 1-(2-chloro-6-nitro-phenyl)-piperazine (1.26 g, 95%). MS (electrospray): exact mass calculated for C10H12ClN3O2, 241.1; m/z found, 242.1 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.54 (dd, J=8.2, 1.6 Hz, 1H), 7.49 (dd, J=8.2, 1.6 Hz, 1H), 7.10 (t, J=8.2 Hz, 1H), 3.08 (br s, 4H), 2.99 (br s, 4H), 2.07-2.12 (m, 1H).

reactant | 4-(2-Chloro-6-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 5.47 mmol, 1.87 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1[N+](=O)[O-])Cl | C15H20ClN3O4
reactant | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2-chloro-6-nitro-phenyl)-piperazine | 1.26 g, 95% | ClC1=C(C(=CC=C1)[N+](=O)[O-])N1CCNCC1 | C10H12ClN3O2
